US07842713B2
4-{4-[(Dimethylamino)sulfonyl]-3-fluorophenoxy}-N-(4-methoxypyridin-2-yl)-2-methyl-1-benzofuran-6-carboxamide
To a solution of 4-methoxypyridin-2-amine (295 mg, 2.37 mmol) in DCE at 0° C. was added Al(CH3)2Cl (3.0 mL, 1.0M) drop wise, and the reaction was stirred for 20 minutes at room temperature. Ethyl 4-{4-[(dimethylamino)sulfonyl]-3-fluorophenoxy}-2-methyl-1-benzofuran-6-carboxylate (100 mg, 0.24 mmol) was then added and the reaction was stirred at room temperature for an additional 14 hours. The sample was diluted with CH2Cl2 and quenched with potassium sodium tartrate tetrahydrate (20% w/w) (1 mL). The organic layer was washed with brine and dried over Na2SO4 and concentrated under reduced pressure. The crude sample was introduced into a silica gel column and eluted with MeOH/CHCl3 (5/95-10/90) to provide the product (110 mg, 93% yield) as white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 2.49 (s, 3 H) 2.84 (d, J=1.51 Hz, 6 H) 3.91 (s, 3 H) 6.26 (s, 1 H) 6.64 (dd, J=5.75, 2.35 Hz, 1 H) 6.71-6.91 (m, 2 H) 7.52 (s, 1 H) 7.81 (t, J=8.29 Hz, 1 H) 7.91 (s, 1 H) 8.01 (s, 1 H) 8.09 (d, J=5.84 Hz, 1 H) 8.59 (s, 1 H); MS (ESI, pos): 500.

reactant | 4-methoxypyridin-2-amine | 2.37 mmol, 295 mg | COC1=CC(=NC=C1)N | C6H8N2O
reactant | Al(CH3)2Cl | 1.0M, 3.0 mL | [Al](C)(C)Cl
reactant | Ethyl 4-{4-[(dimethylamino)sulfonyl]-3-fluorophenoxy}-2-methyl-1-benzofuran-6-carboxylate | 0.24 mmol, 100 mg | CN(S(=O)(=O)C1=C(C=C(OC2=CC(=CC3=C2C=C(O3)C)C(=O)OCC)C=C1)F)C | C20H20FNO6S
solvent | DCE | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-{4-[(Dimethylamino)sulfonyl]-3-fluorophenoxy}-N-(4-methoxypyridin-2-yl)-2-methyl-1-benzofuran-6-carboxamide | 110 mg, 93% yield | CN(S(=O)(=O)C1=C(C=C(OC2=CC(=CC3=C2C=C(O3)C)C(=O)NC3=NC=CC(=C3)OC)C=C1)F)C | C24H22FN3O6S
